US04737513
40 ml of a solution of 45 (mmoles) of 2-chlorocarbonyl-1H-pyrrole in methylene chloride were added dropwise to a cold mixture of 4.3 ml of pyridine and 3.5 ml of methanol and the mixture was washed with water, then with 6 ml of N sodium hydroxide, and was extracted with methylene chloride. The organic phases were dried and concentrated to dryness and the residue was chromatographed over silica. Elution with a mixture of hexane and ethyl acetate (8-2) yielded 4.014 g of methyl 1H-pyrrole-2-carboxylate melting at ≃74° C.

reactant | 2-chlorocarbonyl-1H-pyrrole | ClC(=O)C=1NC=CC1 | C5H4ClNO
reactant | pyridine | 4.3 ml | N1=CC=CC=C1 | C5H5N
reactant | methanol | 3.5 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 1H-pyrrole-2-carboxylate | 4.014 g | N1C(=CC=C1)C(=O)OC | C6H7NO2
